US03971819
3-Benzylamino-4-phenylsulphinyl-5-sulphamyl-benzoic acid
To a suspension of 3-benzylamino-4-phenylthio-5-sulphamyl-benzoic acid (0.8 g) in acetic acid (20 ml), perhydrol (1.5 ml of 30% hydrogen peroxide in water) was added while stirring. The reaction mixture was stirred for an additional 75 hours at room temperature, after which the 3-benzylamino-4-phenylsulphinyl-5-sulphamyl-benzoic acid was collected by filtration and washed with acetic acid. After recrystallization from aqueous methanol and drying, the acid had a melting point of 234°C.

reactant | 3-benzylamino-4-phenylthio-5-sulphamyl-benzoic acid | 0.8 g | C(C1=CC=CC=C1)NC=1C=C(C(=O)O)C=C(C1SC1=CC=CC=C1)S(N)(=O)=O | C20H18N2O4S2
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | perhydrol | 1.5 ml | OO | H2O2
product | 3-Benzylamino-4-phenylsulphinyl-5-sulphamyl-benzoic acid | C(C1=CC=CC=C1)NC=1C=C(C(=O)O)C=C(C1S(=O)C1=CC=CC=C1)S(N)(=O)=O | C20H18N2O5S2
